US07378409B2
A sample of [(1R,3R,4S)-4-amino-3-(3-methyl-butyl)-cyclohexyl]-carbamic acid tert-butyl ester (50 mg, 0.18 mmol) was dissolved in 1:1 CH2Cl2/DMF (2 mL). The resultant solution was charged successively with N,N-diethylisopropylamine (0.16 mL, 0.9 mmol), (3-trifluoromethyl-benzoylamino)-acetic acid (47 mg, 0.19 mmol, prepared as described in WO PCT 0250019), and BOP (116 mg, 0.26 mmol). The reaction was stirred for 12 h at RT and then partitioned between EtOAc and sat. NaHCO3; the aqueous phase was back extracted with EtOAc (1×). The organic phases were combined, washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo. Purification by silica gel chromatography afforded {(1R, 3R,4S)-3-(3-methyl-butyl)-4-[2-(3-trifluoromethyl-benzoylamino)-acetylamino]-cyclohexyl}-carbamic acid tert-butyl ester (33 mg). MS found: (M+H)+=514.3.

reactant | [(1R,3R,4S)-4-amino-3-(3-methyl-butyl)-cyclohexyl]-carbamic acid tert-butyl ester | 0.18 mmol, 50 mg | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)N)CCC(C)C)=O | C16H32N2O2
reactant | N,N-diethylisopropylamine | 0.9 mmol, 0.16 mL | C(C)N(CC)C(C)C | C7H17N
reactant | (3-trifluoromethyl-benzoylamino)-acetic acid | 0.19 mmol, 47 mg | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | BOP | 0.26 mmol, 116 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | CH2Cl2 DMF | 2 mL | C(Cl)Cl.CN(C)C=O
product | {(1R, 3R,4S)-3-(3-methyl-butyl)-4-[2-(3-trifluoromethyl-benzoylamino)-acetylamino]-cyclohexyl}-carbamic acid tert-butyl ester | 33 mg | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)CCC(C)C)=O | C26H38F3N3O4
